data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c03940.json
{"doi": "10.1021_acs.orglett.3c03940", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical reductive cross-coupling of α-aryl vinyl bromides with β-alkenyl bromides to construct 1,3-dienes using a sacrificial stainless steel anode that releases Ni catalyst in situ", "mechanism_family": ["electrocatalysis_inner_sphere", "sacrificial_anode", "mediator_cathodic"], "electrochemical_role": "Anodic oxidation of stainless steel anode releases Ni ions into solution; cathodic reduction generates active Ni(0) catalyst B and reduces Ni(II)/Ni(III) intermediates throughout the catalytic cycle", "key_intermediates": [{"name": "Ni(II) precatalyst A (from anodic dissolution of stainless steel)", "smiles": null, "role": "resting_state"}, {"name": "Ni(0)-dtbbpy active catalyst B", "smiles": null, "role": "reactive"}, {"name": "Ni(II)-alkenyl bromide complex C (oxidative addition of β-alkenyl bromide)", "smiles": null, "role": "transient"}, {"name": "Ni(I)-alkenyl species D (after cathodic reduction of C)", "smiles": null, "role": "reactive"}, {"name": "Ni(III)-bis(alkenyl) bromide species E (after 2nd oxidative addition of α-alkenyl bromide)", "smiles": null, "role": "transient"}, {"name": "Ni(I)-Br species F (after reductive elimination releasing 1,3-diene)", "smiles": null, "role": "transient"}], "electron_flow": "Stainless steel anode is oxidized to release Ni(II) (A), which is cathodically reduced to Ni(0) (B); B performs oxidative addition with β-alkenyl bromide to give Ni(II) (C), then cathodic reduction yields Ni(I) (D); a second oxidative addition with α-alkenyl bromide gives Ni(III) (E), which reductively eliminates the 1,3-diene and Ni(I)-Br (F), which is reduced back to B.", "rate_determining_step": null, "probe_reagents": [{"name": "(Z)-(2-bromovinyl)benzene (1m)", "smiles": "Br/C=C\\c1ccccc1", "purpose": "isotope_label", "observation": "1:1 mixture of E/Z diene isomers obtained, indicating loss of alkene geometry during the coupling"}, {"name": "alkenyl chloride / iodide variants", "smiles": null, "purpose": "other", "observation": "Lower yields of 1,3-diene 3d with more homocoupling side products when halide is changed from Br"}, {"name": "Pre-electrolysis with SS anode/Ni cathode (no Ni catalyst added)", "smiles": null, "purpose": "intermediate_trap", "observation": "ICP-OES detected Fe (552.6 mg/L), Cr (187.1 mg/L), Ni (63.9 mg/L) in solution; subsequent addition of substrates under Gong's protocol gave product 3a in 28% yield, confirming in situ generation of Ni catalyst from electrodes"}, {"name": "Cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "Supported proposed redox events of Ni species (details in SI)"}], "evidence_types_used": ["stoichiometric_intermediate", "cyclic_voltammetry", "isolation_of_intermediate", "other"], "evidence_strength": "medium", "notes": "Notable that no exogenous metal catalyst or chemical reductant is required: Ni is generated in situ from the stainless steel anode (which also contains Fe and Cr by ICP-OES). The Z/E scrambling with 1m suggests a radical or planar alkenyl-Ni intermediate rather than fully stereoretentive oxidative addition. TMSCl additive likely activates the electrode surface or Ni species."}
